US05905076
(5R,6S)-6-benzyloxycarbonylamino-4-oxa-1-azabicyclo[3.2.0]heptan-7-one
A mixture of (3S,4R)-3-benzyloxycarbonylamino-4-bromoethoxy-azetidin-2-one (2.04 g, 5.945 mmole) and powder K2CO3 (903 mg, 6.54 mmole) in DMSO (20 ml) was stirred at room temperature overnight and then diluted with ethyl acetate, washed with cold water, brine, and dried over sodium sulfate. After removal of the solvent, 1.43 g of the title compound was obtained.

reactant | (3S,4R)-3-benzyloxycarbonylamino-4-bromoethoxy-azetidin-2-one | 5.945 mmole, 2.04 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(N[C@@H]1OCCBr)=O | C13H15BrN2O4
reactant | K2CO3 | 6.54 mmole, 903 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (5R,6S)-6-benzyloxycarbonylamino-4-oxa-1-azabicyclo[3.2.0]heptan-7-one | 1.43 g, Yield: 92% | C(C1=CC=CC=C1)OC(=O)N[C@H]1[C@H]2OCCN2C1=O | C13H14N2O4
